US08609727B2
tert-Butyl 4-(2-methoxy-2-oxoethyl)benzoate
With exclusion of oxygen, 11.79 ml (84.11 mmol) of diisopropylamine are introduced into 40 ml of THF and cooled to −78° C., and 52.57 ml (84.11 mmol) of n-butyllithium (1.6 M solution in hexane) are slowly added dropwise. The mixture is stirred at −78° C. for 10 minutes and then 10.17 ml (84.11 mmol) of 1,3-dimethyltetrahydro-2-(1H)-pyrimidinone are added. After 15 minutes, 7.7 g (40.05 mmol) of tert-butyl 4-methylbenzoate, dissolved in 40 ml of THF, are added dropwise, and the mixture is stirred for a further 15 minutes. 3.25 ml (42.05 mmol) of methyl chloroformate are separately dissolved in 20 ml of THF, cooled to −70° C. and then rapidly added to the reaction mixture. After a further 15 minutes, ammonium chloride solution is added to the reaction mixture, which is warmed to room temperature. It is diluted with water, and the phases are separated. The aqueous phase is extracted twice with diethyl ether. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated. The resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 50:1). 4.2 g (16.78 mmol, 40% yield) of the title compound are obtained as a colourless oil.

reactant | oxygen | O=O | O2
reactant | diisopropylamine | 84.11 mmol, 11.79 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 84.11 mmol, 1.6 M, 52.57 ml | C(CCC)[Li]
reactant | 1,3-dimethyltetrahydro-2-(1H)-pyrimidinone | 84.11 mmol, 10.17 ml | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | tert-butyl 4-methylbenzoate | 40.05 mmol, 7.7 g | CC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H16O2
reactant | methyl chloroformate | 42.05 mmol, 3.25 ml | ClC(=O)OC | C2H3ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-methoxy-2-oxoethyl)benzoate | 16.78 mmol, 4.2 g, 40% yield | COC(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C14H18O4
